US05627203
Methyl 4-methyl-3-(pyrrol-1-yl)thiophene-2-carboxylate
43.8 g (0.292 mol) of 4-chloropyridine hydrochloride and 38.59 g (0.292 mol) of 2,5-dimethoxytetrahydrofuran are stirred for 10 minutes at room temperature in 600 ml of dioxane. 50 g (0.292 mol) of methyl 4-methyl-3-aminothiophene-2-carboxylate are added and the suspension is heated at reflux for 3 hours. The dioxane is removed under reduced pressure, and the residue is taken up in 1 liter of water and then extracted with 1 liter of diethyl ether. The ethereal phase is washed with water, decanted off, dried over magnesium sulfate, rendered colourless with animal charcoal and concentrated under reduced pressure to yield the title compound.

reactant | 4-chloropyridine hydrochloride | 0.292 mol, 43.8 g | Cl.ClC1=CC=NC=C1
reactant | 2,5-dimethoxytetrahydrofuran | 0.292 mol, 38.59 g | COC1OC(CC1)OC | C6H12O3
reactant | methyl 4-methyl-3-aminothiophene-2-carboxylate | 0.292 mol, 50 g | CC=1C(=C(SC1)C(=O)OC)N | C7H9NO2S
solvent | dioxane | 600 ml | O1CCOCC1 | C4H8O2
product | Methyl 4-methyl-3-(pyrrol-1-yl)thiophene-2-carboxylate | Yield: 91% | CC=1C(=C(SC1)C(=O)OC)N1C=CC=C1 | C11H11NO2S
